US06242155B1
Into a 500 ml three-necked flask were charged 60 ml of water, 120 ml of methanol and 75 g of sodium hydroxide. 75 g of 4-aminothiphenol and 85 g of sodium chloroacetate were then slowly added to the mixture over an ice bath. Thereafter, the reaction mixture was allowed to cool to room temperature where it was then stirred for 6 hours. After reaction, concentrated hydrochloric acid was added dropwise to the reaction mixture over an ice bath until the pH value of the solution reached 1. As a result, precipitation of a solid matter was observed. The precipitate was filtered off, thoroughly washed with water, and then dried to obtain 95 g of 4-aminophenylsulfanylacetic acid (white powder).

reactant | sodium hydroxide | 75 g | [OH-].[Na+]
reactant | 4-aminothiphenol | 75 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | sodium chloroacetate | 85 g | ClCC(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 120 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 4-aminophenylsulfanylacetic acid | 95 g | NC1=CC=C(C=C1)SCC(=O)O | C8H9NO2S
